US04649215
A4 7-Tetrahydropyranyloxy-2-trans-heptenal (b.p. =106° C./5 mbar)
from 16 g of 5-tetrahydropyranyloxypentanal [E.J. Corey et al., J. Am. Chem. Soc. 92, 6635 (1970)] and 26.1 g of formylmethylenetriphenylphosphorane.

reactant | 5-tetrahydropyranyloxypentanal | 16 g | O1C(CCCC1)OCCCCC=O | C10H18O3
reactant | formylmethylenetriphenylphosphorane | 26.1 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
product | 7-Tetrahydropyranyloxy-2-trans-heptenal | O1C(CCCC1)OCCCC/C=C/C=O | C12H20O3
